US08383644B2
2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid methyl ester (0.5 g) was dissolved in anhydrous THF (7 mL) and cooled to 0° C. and 1 eq of Lithium aluminum hydride (2M solution in THF) was added and stirred 1 h. Reaction was slowly warmed to RT and stirred for 6 h. Reaction was cooled to 0° C. and quenched with min amount of sat. Na2SO4 soln. White solid was filtered and washed with ethyl acetate (5 mL), filtrate was concentrated by rotavap and residue was dried in vacuum gave (5-Hydroxymethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester (0.4 g). This was used in the next reaction without further purification. 1H NMR (400 MHz, Acetone-d6) 4.6 (s, 2H), 2.1 (s, 3H), 1.5 (s, 9H).

reactant | 2-tert-Butoxycarbonylamino-4-methyl-thiazole-5-carboxylic acid methyl ester | 0.5 g | COC(=O)C1=C(N=C(S1)NC(=O)OC(C)(C)C)C | C11H16N2O4S
reactant | Lithium aluminum hydride | 2M, 1 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 7 mL | C1CCOC1 | C4H8O
product | (5-Hydroxymethyl-4-methyl-thiazol-2-yl)-carbamic acid tert-butyl ester | 0.4 g | C(C)(C)(C)OC(NC=1SC(=C(N1)C)CO)=O | C10H16N2O3S
